US08877975B2
(1-(3,4-dichlorophenyl)cyclopentyl)-N-methylmethanamine (88)
The title compound was synthesized from 1-(3,4-dichlorophenyl)-cyclopentanecarboxylic acid and methyl amine using General Procedure G1, followed by General Procedure E in 49% yield. LCMS Rt=11.16 min, m/z=258 (M+1). 1H NMR (CDCl3, δ): 7.4 (m, 2H), 7.17 (dd, J=2.2, 8.4 Hz, 1H), 2.65 (s, 2H), 2.34 (s, 3H), 2.1-1.6 (m, 8H). 13C NMR (CDCl3, δ, mult): 148.3(0), 132.1(0), 129.9(1), 129.7(0), 129.1(1), 126.5(1), 62.1(2), 51.6(0), 37.3(3), 36.2(2), 23.5(2).

reactant | 1-(3,4-dichlorophenyl)-cyclopentanecarboxylic acid | ClC=1C=C(C=CC1Cl)C1(CCCC1)C(=O)O | C12H12Cl2O2
reactant | methyl amine | CN | CH5N
product | (1-(3,4-dichlorophenyl)cyclopentyl)-N-methylmethanamine | 49% yield | ClC=1C=C(C=CC1Cl)C1(CCCC1)CNC | C13H17Cl2N
